US09238644B2
(a) 4-Chloro-N-(6-methoxypyridin-3-yl)-5-(trifluoromethyl)pyrimidin-2-amine (A68)
A 1.0 M solution of ZnCl2 in Et2O (5.07 mL, 5.07 mmol) was added to a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (1.00 g, 4.61 mmol) in t-BuOH (25 mL) and DCE (25 mL). The mixture was stirred for 10 minutes and then diluted with t-BuOH (25 mL) and DCE (25 mL) before 5-amino-2-methoxypyridine (629 mg, 5.07 mmol) and Et3N (1.93 mL, 13.8 mmol) were added. The mixture was stirred at room temperature overnight and the volatiles were removed in vacuo. The resultant residue was suspended in water (250 mL) and sonicated for 10 minutes before the solid was isolated by vacuum filtration. The filter cake was washed with water and air dried and then dissolved in DCM and adsorbed onto silica gel. Purification by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) gave the title compound A68 as a white solid (944 mg, 67%). LCMS-A: rt 6.62 min; m/z 305 [M+H]+.

reactant | Et2O | 5.07 mmol, 5.07 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 4.61 mmol, 1.00 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 5-amino-2-methoxypyridine | 5.07 mmol, 629 mg | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | Et3N | 13.8 mmol, 1.93 mL | CCN(CC)CC | C6H15N
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 4-Chloro-N-(6-methoxypyridin-3-yl)-5-(trifluoromethyl)pyrimidin-2-amine | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NC(=CC1)OC | C11H8ClF3N4O
